US05455273
n) trans-N-acetyl-N-benzyl-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)cyclohexylamine
from trans-N-benzyl-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)cyclohexylamine and acetylchloride. Oil. Rf value: 0.66 (alumina, ethyl acetate/petroleum ether= 1:3, v:v).

reactant | trans-N-benzyl-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)cyclohexylamine | C(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)C(=O)OC(C)(C)C)CNC | C26H36N2O2
reactant | acetylchloride | C(C)(=O)Cl | C2H3ClO
product | trans-N-acetyl-N-benzyl-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)cyclohexylamine | C(C)(=O)N(CC1=CC=CC=C1)[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)C(=O)OC(C)(C)C)CNC | C28H38N2O3
